US07872014B2
To 3-methyl-4-phenyl-1H-pyrazol-5-amine (173 mg, 1 mmol) was added 4-hydroxybezaldehyde (244 mg, 2 mmol) and methanesulfonic acid (3 mL). The mixture was heated to 120° C. for 16 h. After cooling to rt, the mixture was diluted with ethyl acetate and then filtered through celite. The product was then extracted from the organic phase with NaOH (aq). The organic phase was discarded, and the aqueous extract was carefully neutralized with HCl (conc) and then extracted with ethyl acetate. The ethyl acetate extract was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by flash chromatography (ethyl acetate) to provide 41.2 mg of 4-(1-methyl-3H-pyrazolo[3,4-c]isoquinolin-5-yl)phenol (0.15 mmol, 15% yield). 1H-NMR (400 MHz, DMSO-d6): δ13.42 (s, 1H), 9.81 (s, 1H), 8.34 (d, 1H), 8.11 (d, 1H), 7.87 (t, 1H), 7.50 (d, 2H), 6.94 (d, 2H), 2.79 (s, 3H); MS (EI) for C17H13N3O: 276 (MH+).

reactant | 3-methyl-4-phenyl-1H-pyrazol-5-amine | 1 mmol, 173 mg | CC1=NNC(=C1C1=CC=CC=C1)N | C10H11N3
reactant | 4-hydroxybezaldehyde | 2 mmol, 244 mg | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | methanesulfonic acid | 3 mL | CS(=O)(=O)O | CH4O3S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(1-methyl-3H-pyrazolo[3,4-c]isoquinolin-5-yl)phenol | 0.15 mmol, 41.2 mg, 15% yield | CC1=NNC=2N=C(C=3C=CC=CC3C21)C2=CC=C(C=C2)O | C17H13N3O
